US07550598B2
(Z)-3-methyl-4-(4-(pyridin-2-ylthio)quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and 2-thiopyridine using the procedure described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.31 (s, 3H) 7.40 (dd, J=7.20, 4.93 Hz, 1H) 7.55 (t, J=7.58 Hz, 2H) 7.73 (s, 1H) 7.77-7.87 (m, 2H) 7.96 (d, J=8.59 Hz, 1H) 8.06 (d, J=8.08 Hz, 1H) 8.58 (d, J=3.79 Hz, 1H); ESI-MS: m/z calc'd for C18H14N4OS 334.09. found 335.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 2-thiopyridine | C1=CC(=S)NC=C1 | C5H5NS
product | (Z)-3-methyl-4-(4-(pyridin-2-ylthio)quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=NC=CC=C1)=O | C18H14N4OS
